US07754737B2
A solution of toluenesulfonic acid monohydrate (10 mg, 0.053 mmol) in absolute ethanol (1 mL) was added to a solution of 2-(trimethylsilyl)ethyl (S)-3-cyclohexyl-2-((tert-butyl-carbamoyl)methylamino)propylcarbamate (21.3 mg, 0.51 mmol) in Et2O (10 mL). This solution was placed in a flask on a rotary evaporator and the Et2O was removed at ambient temp. The flask was then lowered into a water bath (60° C.) and selective removal of the Boc group proceeded concurrently with removal of the solvent. The reaction was complete within 2 h. This material was taken up in CH2Cl2 (20 mL) and 1N aq NaOH (10 mL) and extracted with CH2Cl2 (2×10 mL). The combined organic layers were washed with brine (2×5 mL), dried over Na2SO4, decanted, and stripped to afford 2-(trimethylsilyl)ethyl (S)-3-cyclohexyl-2-(methylamino)propylcarbamate (15.0 mg, 94%) as a clear film. MS ESI+ve m/z 315 (M+1).

reactant | toluenesulfonic acid monohydrate | 0.053 mmol, 10 mg | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
reactant | 2-(trimethylsilyl)ethyl (S)-3-cyclohexyl-2-((tert-butyl-carbamoyl)methylamino)propylcarbamate | 0.51 mmol, 21.3 mg | C1(CCCCC1)C[C@@H](CNC(OCC[Si](C)(C)C)=O)NCC(NC(C)(C)C)=O | C21H43N3O3Si
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | 2-(trimethylsilyl)ethyl (S)-3-cyclohexyl-2-(methylamino)propylcarbamate | 15.0 mg, 94% | C1(CCCCC1)C[C@@H](CNC(OCC[Si](C)(C)C)=O)NC | C16H34N2O2Si
